US05807846
2,6-Diisopropylbenzoic acid
2,6-Diisopropylbromobenzene (21.58 g, 0.0895 mol) was cooled to -23° C. under nitrogen and 2.5M n-butyl lithium in hexanes (36 mL) was added dropwise as the temperature further cooled to -29° C. When the addition was complete, the reaction mixture was warmed to 0° C. and was stirred 1 hour at zero and was then poured onto a large excess of crushed dry ice. The mixture was stirred with a glass rod. When the dry ice had sublimed, hydrochloric acid (1N, 200 mL) was added and the mixture was extracted with ethyl ether, the ether washed with brine, dried (magnesium sulfate), filtered, and concentrated to a yellow oil. The oil was taken up in ether (200 mL), the ether solution extracted with sodium hydroxide solution (1N, 200 mL), the layers separated, the aqueous layer made acidic with 1.5N hydrochloric acid, brine added, and the aqueous layer extracted with ether (200 mL). The ether layer was washed with brine (50 mL), dried (magnesium sulfate), filtered and concentrated to an oil which solidified on standing, 13.42 g, 72.7%.

reactant | 2,6-Diisopropylbromobenzene | 0.0895 mol, 21.58 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)Br | C12H17Br
reactant | n-butyl lithium | 2.5M | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | hydrochloric acid | 1N, 200 mL | Cl | ClH
product | 2,6-Diisopropylbenzoic acid | C(C)(C)C1=C(C(=O)O)C(=CC=C1)C(C)C | C13H18O2
